US06630600B1
Trifluoroacetic acid (12 ml; 0.0706 mole) was added to a solution of 3-{4-[2-(4-tert-butoxycarbonylaminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid ethyl ester (30 g; 0.065 mole) in dichloromethane (150 ml). The reaction mixture was stirred over night at room temperature and then washed three times with water. The organic phase was dried with magnesium sulfate and evaporated. 1H-NMR of the product showed a mixture of product and starting material. The crude product (27.3 g) was redissolved in ethyl acetate, ethyl acetate saturated with hydrochloric acid (500 ml) was added and the mixture was stirred over night at room temperature. Evaporation gave 24.7 g (96.5% yield) of 3-{4-[2-(4-aminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid hydro chloride.

reactant | Trifluoroacetic acid | 0.0706 mole, 12 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-{4-[2-(4-tert-butoxycarbonylaminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid ethyl ester | 0.065 mole, 30 g | C(C)OC([C@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)OCC)=O | C26H35NO6
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-{4-[2-(4-aminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid hydro chloride | 24.7 g, 96.5% yield | Cl.NC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | InChI=1S/C19H23NO4.ClH/c1-2-23-18(19(21)22)13-15-5-9-17(10-6-15)24-12-11-14-3-7-16(20)8-4-14;/h3-10,18H,2,11-13,20H2,1H3,(H,21,22);1H/t18-;/m0./s1
